US08389524B2
(1R)-1-[((3S)-3-{[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]methyl}-1-pyrrolidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride
To a 10 mL round-bottomed flask were added (1R)-1-{[(3S)-3-(aminomethyl)-1-pyrrolidinyl]methyl}-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (60 mg, 0.200 mmol), [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde (33.4 mg, 0.200 mmol) (for a synthesis see WO2004058144 Example 61), and sodium sulfate (250 mg, 1.760 mmol) in DCM (4 ml) and methanol (1.00 ml) to give an orange suspension. The reaction was stirred overnight under nitrogen. Sodium triacetoxyborohydride (85 mg, 0.400 mmol) was added and the reaction was stirred for 3 h. The reaction mixture was diluted with 10% MeOH/DCM (20 mL), filtered, adsorbed onto silica and then purified by silica chromatography eluting with 0-10% MeOH/DCM (1% NH4OH) to give the free base of the title compound as a yellow oil. LCMS/NMR consistent with the desired product.

reactant | (1R)-1-{[(3S)-3-(aminomethyl)-1-pyrrolidinyl]methyl}-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 0.200 mmol, 60 mg | NC[C@H]1CN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | C16H20N4O2
reactant | [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde | 0.200 mmol, 33.4 mg | S1COC=2C=NC(=CC21)C=O | C7H5NO2S
reactant | sodium sulfate | 1.760 mmol, 250 mg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | Sodium triacetoxyborohydride | 0.400 mmol, 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 1.00 ml | CO | CH4O
solvent | MeOH DCM | 20 mL | CO.C(Cl)Cl
product | (1R)-1-[((3S)-3-{[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]methyl}-1-pyrrolidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | Cl.Cl.S1COC=2C=NC(=CC21)CNC[C@H]2CN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C23H25N5O3S.2ClH/c29-21-3-1-16-2-4-22(30)28-18(13-27(21)23(16)28)12-26-6-5-15(11-26)8-24-9-17-7-20-19(10-25-17)31-14-32-20;;/h1-4,7,10,15,18,24H,5-6,8-9,11-14H2;2*1H/t15-,18+;;/m0../s1
